US04032661
p-Menthane-3-thiol (3.5 g., 20 mmole), methyl iodide (3.5 g., 25 mmole) and sodium ethoxide in ethanol (25 ml. of 0.8 M solution) were mixed together and stirred at room temperature for 21/2 hours. The ethanol was then removed and water was added to the residue, which was extracted with ether. The ether extracts were dried (MgSO4) and the solvent was removed. The residue was eluted with 40/60 petroleum ether down a silica column and the product was distilled to give p-menth-3-yl methyl sulphide b.p. 83°-5°/0.05 mm.

reactant | p-Menthane-3-thiol | 20 mmole, 3.5 g | C1(CC(C(CC1)C(C)C)S)C | C10H20S
reactant | methyl iodide | 25 mmole, 3.5 g | CI | CH3I
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 0.8 M, 25 ml | C(C)O | C2H6O
product | p-menth-3-yl methyl sulphide | CSC1CC(CCC1C(C)C)C | C11H22S
